US06664260B2
Using the general method of Example 3 Part A, 4-phenoxy-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline (10 g, 29.4 mmol) was reacted with 2-iodothiophene (3.6 mL, 32.3 mmol). The glassy solid obtained from purification by chromatography over silica gel (98/2 dichloromethane/methanol) was triturated with ether to provide 5.3 g of 4-phenoxy-1-{2-[(3-thien-3-ylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinoline as a gray powder.

reactant | 4-phenoxy-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 29.4 mmol, 10 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCOCC#C | C21H17N3O2
reactant | 2-iodothiophene | 32.3 mmol, 3.6 mL | IC=1SC=CC1 | C4H3IS
product | 4-phenoxy-1-{2-[(3-thien-3-ylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinoline | 5.3 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCOCC#CC2=CSC=C2 | C25H19N3O2S
